* C:\users\theofc\Documents\UFMG\Lab ELT1\Fonte CC\FonteCC-ELT1-Primeira Tentativa.asc
* Generated by LTspice 24.1.9 for Windows.
R7 +VCC N005 560
X§D9 0 N005 DI_1N4736A
R8 0 N005 10k
Q3 +VCC N007 VOPos 0 TIP41C
R10 N002 N007 82
R13 VOPos N001 6.8k
R15 -VCC Vref- 560
X§D10 Vref- 0 DI_1N4736A
R17 0 Vref- 10k
R18 N004 N008 82
R21 VONeg N003 6.8k
V3 2.1V 0 2.1
V4 +5V 0 5
V5 -5V 0 -5
R2 N001 0 5.6k
R3 N003 0 5.6k
Q1 -VCC N008 VONeg 0 TIP42C
X§U1 0 N001 +VCC -5V N002 TL074
X§U2 Vref- N003 +5V -VCC N004 TL074
V1 +VCC 0 22
V2 -VCC 0 -22
.model NPN NPN
.model PNP PNP
.lib C:\users\theofc\AppData\Local\LTspice\lib\cmp\standard.bjt
* Retificação
* Fonte Auxiliar 2.1V
* Fonte Auxiliar +5V
* Fonte Auxiliar -5V
* Parte Positiva
* Tensão de Referência +
* Amplificação+
* Parte Negativa
* Tensão de Referência -
* Amplificação-
.lib lib/1N4736A.lib
* Libs
.lib lib/TIP4XC.lib
.lib lib/1N4001.lib
.lib lib/TL074.lib
.tran 1
.backanno
.end
